US09120824B2
lithium 4-((S)-1-((2R,4S)-4-fluoro-1-(3-(trifluoromethyl)benzyl)pyrrolidine-2-carboxamido)ethyl)benzoate (E20)
The title compound (E20) (50 mg) was prepared according to the general procedure for esters hydrolysis starting from methyl 4-((S)-1-((2R,4S)-4-fluoro-1-(3-(trifluoromethyl)benzyl)pyrrolidine-2-carboxamido)ethyl)benzoate (D37) (67.3 mg). (LiOH H2O: 2 eq; reaction time: 18 hrs)

reactant | methyl 4-((S)-1-((2R,4S)-4-fluoro-1-(3-(trifluoromethyl)benzyl)pyrrolidine-2-carboxamido)ethyl)benzoate | 67.3 mg | F[C@H]1C[C@@H](N(C1)CC1=CC(=CC=C1)C(F)(F)F)C(=O)N[C@@H](C)C1=CC=C(C(=O)OC)C=C1 | C23H24F4N2O3
reactant | LiOH H2O | O[Li].O
product | lithium 4-((S)-1-((2R,4S)-4-fluoro-1-(3-(trifluoromethyl)benzyl)pyrrolidine-2-carboxamido)ethyl)benzoate | 50 mg | F[C@H]1C[C@@H](N(C1)CC1=CC(=CC=C1)C(F)(F)F)C(=O)N[C@@H](C)C1=CC=C(C(=O)[O-])C=C1.[Li+] | InChI=1S/C22H22F4N2O3.Li/c1-13(15-5-7-16(8-6-15)21(30)31)27-20(29)19-10-18(23)12-28(19)11-14-3-2-4-17(9-14)22(24,25)26;/h2-9,13,18-19H,10-12H2,1H3,(H,27,29)(H,30,31);/q;+1/p-1/t13-,18-,19+;/m0./s1
